US05254575
To a solution of ethyl aminothioxoacetate (16.2 g) in ethanol (80 ml), stirred under nitrogen at reflux, was added dropwise over 10 min, a hot solution of 2-bromo-1-(3-chloro-4,5-dimethoxyphenyl)-ethanone (31.9 g) in ethanol (180 ml). The mixture was heated at reflux for 4 h, then cooled to room temperature. The precipitated solid was collected by filtration and dried under vacuum at 60° C. Recrystallisation from ethanol gave ethyl 4-(3-chloro-4,5-dimethoxyphenyl)-thiazole-2-carboxylate as a white solid (21.9 g), m.p. 92°-94° C.

reactant | ethyl aminothioxoacetate | 16.2 g | NC(C(=O)OCC)=S | C4H7NO2S
reactant | 2-bromo-1-(3-chloro-4,5-dimethoxyphenyl)-ethanone | 31.9 g | BrCC(=O)C1=CC(=C(C(=C1)OC)OC)Cl | C10H10BrClO3
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | ethyl 4-(3-chloro-4,5-dimethoxyphenyl)-thiazole-2-carboxylate | 21.9 g | ClC=1C=C(C=C(C1OC)OC)C=1N=C(SC1)C(=O)OCC | C14H14ClNO4S
